Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Fish Product Derivatives
 
Attending: ___.
 
Chief Complaint:
right sided arm and leg weakness with some right leg sensory 
loss
 
Major Surgical or Invasive Procedure:
Transesophageal ECHO

 
History of Present Illness:
This is a very pleasant ___ RHM with a history of hypertension,
tobacco abuse, "nerves" and alcohol abuse who presents to the ED
today for right sided weakness. While the patient spoke some
___, the history was obtained through a phone translator
speaker phone, and so may be limited. What we know is that he 
was
in his usual state of health until about 2PM two days prior when
he was walking to the kitchen to get some soup, when he suddenly
realized that he was weak on the right side of his body. He
reported that he was clumsy when picking up the bowl of soup, 
but
didn't drop anything. He didn't want to come into the hospital
that day. He reports perhaps some mild improvement of his
symptoms that day, but also developed some sensory loss over his
right leg, as well as some cramping pain for which he points to
the right knee. Through a translator, he denied any difficulties
with understanding words said to him or problems with word
finding difficulties or slurred speech. The next day, he
continued to experience some mild symptoms, and then today, he
reports that he experienced a recurrence of the same symptoms,
and he came into the ED. He has not had headache, double vision,
dysphagia, dysarthria, problems with his left side, a new rash 
or
vertigo. He reports some palpitations that are intermittent and
chronic for him, but nothing at the time of his new symptoms. He
denies any chest pain. 

He does not take a daily aspirin. He did however take some
tylenol for his right sided cramping pain. 

The ED performed some basic labs and checked a head CT scan,
which showed a lacunar infarction in the left basal ganglia
involving the thalamus and capsular fibers. Neurology was
consulted. 

 
Past Medical History:
Past medical history is notable for depression, EtOH abuse and
right sided shoulder pain (per chart biopsy). He has been 
smoking since the age of ___, and currently smokes baout 4 
cigarettes/day.

 
Social History:
___
Family History:
NC 
 
Physical Exam:
On my my physical examination, vital signs were 98.2, 92,
155/126, 16, 96% RA. In general, patient is a thin gentleman, 
who
is awake, cooperative, pleasant and in no apparent distress. The
patient had a NCAT head without conjunctival icterus. Mucous
membranes were moist and oropharynx is clear of lesions. Neck 
was
supple without masses or thyromegaly. Chest examination revealed
regular heart sounds without murmurs, and lungs were clear to
auscultation bilaterally. Belly was soft without focal
tenderness, and extremities were warm and well perfused. Skin
examination showed no rashes or lesions.  

Neurologically, the patient is awake, alert and oriented x 2 (he
could not tell me today's date). Able to relate history without
difficulty. The translator did not notice any slurred speech,
paraphasias or word finding difficulties. Fluency was judged to
be normal. Pt. was able to name both high and low frequency
objects. Able to read without difficulty. Speech was not
dysarthric. Able to follow both midline and appendicular
commands. 

Cranial nerve examination revealed round, unequal and reactive
pupils. Left was 4mm and right was 3mm and both were briskly
reactive. The difference was equal in dark and light. Full 
visual
fields to confrontation. Extraocular movements were full without
dysconjugate gaze, nystagmus or diplopia per report. There was a
subtle right lower facial droop. Sensation was intact to light
touch and pinprick throughout the face. There was no ptosis
noted. Hearing is intact to finger-rub bilaterally. Palate
elevates symmetrically, and the strength of trapezii and SCMs 
was
___ bilaterally. Tongue was strong bilaterally without atrophy 
or
fasiculations.  

Strength examination showed normal bulk, tone throughout. Left
pronator drift noted. No adventitious movements, such as tremor,
noted. No asterixis noted. Rapid alternating 
 Delt Bic Tri WrE FFl FE IP Quad Ham TA ___   
L 5    5    ___   ___   5   5    5     5    
R 4    5    ___   ___   5   5    5     5  
The sensory examination revealed no deficits to light touch
throughout. He had diminished pinprick all through the right leg
compared to the right. Cold sensation was exaggerated over the
right leg, but vibration was diminished on the right great toe
compared to the left. 

The reflex examination revealed
   Bi Tri ___ Pat Ach  
L  2   2    2     2  2  
R  3   3    3     2  2  
Plantar response: Up on the right, equivocal on the left  

Dysmetria on finger-nose noted on the right but not the left.
Romberg was negative. Testing gait was difficult due to multiple
wires/lines, but preliminary gait evaluation noted some antalgic
gait with limp on the right with ? circumduction of the right
leg. 
 
Pertinent Results:
___ 04:50AM BLOOD WBC-9.0 RBC-4.94 Hgb-16.7 Hct-51.5 
MCV-104* MCH-33.9* MCHC-32.4 RDW-13.8 Plt ___
___ 09:50PM BLOOD WBC-9.6 RBC-5.05 Hgb-17.3# Hct-52.9*# 
MCV-105* MCH-34.3* MCHC-32.7 RDW-13.9 Plt ___
___ 09:50PM BLOOD Neuts-66.1 ___ Monos-5.6 Eos-0.5 
Baso-0.5
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD ___ PTT-32.7 ___
___ 09:50PM BLOOD Plt ___
___ 04:50AM BLOOD Glucose-91 UreaN-10 Creat-0.9 Na-139 
K-3.7 Cl-97 HCO3-27 AnGap-19
___ 09:50PM BLOOD Glucose-91 UreaN-11 Creat-0.9 Na-138 
K-3.9 Cl-97 HCO3-24 AnGap-21*
___ 09:50PM BLOOD ALT-17 AST-26 AlkPhos-74 TotBili-0.5
___ 09:50PM BLOOD cTropnT-<0.01
___ 04:50AM BLOOD Calcium-10.0 Phos-4.0 Mg-2.1 Cholest-204*
___ 04:50AM BLOOD %HbA1c-5.3 eAG-105
___ 04:50AM BLOOD Triglyc-132 HDL-51 CHOL/HD-4.0 
LDLcalc-127 LDLmeas-144*
___ 04:50AM BLOOD TSH-2.7
___ 12:40PM BLOOD CRP-0.2
___ 09:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-5* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

ECHO: IMPRESSION: PFO present by bubbles at rest and valsava. 
Mitral and tricuspid valve prolapse. Normal LV function. 

MR Head:
FINDINGS: 
  
MRI HEAD:  There are DWI-bright, ADC-dark signal abnormalities 
in the left 
basal ganglia representing acute infarcts.  In particular, there 
are 
moderate-sized infarcts involving the posterior aspect of the 
left putamen, 
the posterior limb of the left internal capsule, and left 
caudate body.  There 
are also scattered focal infarcts in the right frontal, right 
parietal and 
occipital lobes.  There is no evidence of hemorrhagic 
conversion.  There is no 
significant parenchymal edema. 
  
There are superimposed periventricular and scattered subcortical 
white matter 
T2/FLAIR hyperintensity, likely represents age-advanced chronic 
microvascular 
ischemic changes.  The ventricles and sulci remain grossly 
normal in size and 
symmetric in configuration.  Major vascular flow voids are 
present. 
  
The visualized paranasal sinuses and mastoid air cells are 
clear.  The right 
lens is absent. 
  
MRA HEAD:  There are bilateral fetal origins of PCAs, a normal 
variant.  There 
is a focal narrowing at the inferior division of the right MCA 
(image 501:9 
and 502:12), representing focal atherosclerotic disease.  There 
is no distal 
occlusion.  No aneurysm or arteriovenous malformation is noted. 
  
Major intracranial vessels are otherwise patent.  The vertebral 
arteries are 
codominant.   
  
MRA NECK:  There is an independent origin of the left vertebral 
artery arising 
directly from the aortic arch, a common anatomic variant.  
Otherwise, the 
origins of the great mediastinal vessels and the vertebral 
arteries are 
patent.  Mild luminal irregularities at the carotid bulbs 
represent mild 
atherosclerotic disease, but there is no significant ICA 
stenosis by NASCET 
criteria. 
  
Major cervical vessels otherwise normal in caliber, without 
evidence of 
stenosis, occlusion, or aneurysm. 
  
IMPRESSION: 
1.  Multifocal bilateral acute infarcts, most significantly 
noted at the left 
basal ganglia.  Multiple small infarcts in the right frontal, 
posterior 
parietal and occipital lobes.  The pattern of distribution is 
most compatible 
with multifocal embolic infarcts. 
2.  A focal narrowing at the inferior division of the right MCA, 
but without 
distal occlusion.  Major intracranial vessels remain patent.  
Bilateral fetal 
PCAs. 
3.  Mild atherosclerotic disease at the carotid bulbs but no 
significant 
stenosis by NASCET criteria. 

CT Head:
FINDINGS:  There is no evidence of acute hemorrhage.  There is a 
hypodensity 
in the region of the left putamen concerning for an acute 
lacunar infarct.  
There is no large territorial infarction.  There is no mass or 
mass effect.  
There is no shift of normally midline structures.  The 
visualized paranasal 
sinuses and mastoid air cells are well aerated.  The bones are 
unremarkable. 
  
IMPRESSION:  Lacunar infarct in the region of the left putamen, 
appears acute. 

 
Brief Hospital Course:
___ yo male with history of alcohol abuse, tobacco use, and HTN 
who presented to ED with two days of right sided arm and leg 
weakness with some right leg sensory loss and found to have 
multifocal bilateral acute infarcts, most significantly noted at 
the left basal ganglia, along with multiple small infarcts in 
the right frontal, posterior parietal and occipital lobes.  The 
pattern of distribution is most compatible with multifocal 
embolic infarcts. 

# NEURO: the etiology of acute infarcts is most likely 
cardioembolic. There was no evidence of thrombus on TTE and 
therefore TEE was obtained. TEE results showed PFO present by 
bubbles at rest and valsava. Mitral and tricuspid valve 
prolapse. Normal LV function. Given PFO finding, patient also 
underwent LENIS to rule out acute DVT. LENIS showed no DVT. To 
acreen for underlying malignancy, we checked ESR and D-dimer. 
The results were pending upon discharge. Patient was evaluated 
with ___ and found safe to go home with ___ services at home. 
Patient will continue Aspirin 325mg daily 

Given patient's alcohol historty, patient was continued on 
thiamine/folate and a CIWA scale. His BP was allowed to 
autoregulate with PRN hydralazine only when SBP>160. Home HCTZ 
was held and restarted upon discharge.

# CARDS: patient was maintained on telemetry around the clock 
which did not reveal any significant arrythmia. ECHO findings 
were mentioned above. 

# ENDO: patient's LDL was 144 and HbA1c was 5.3. Therefore 
patient started on Atorvastatin which he will continue as 
outpatient.

# FEN: patient tolerated a diabetic diet without difficulty. 

# PPx: patient received Subcutaneous Heparin for DVT prophylaxis 
along with a bowel regimen.

# Transitional Issues:
===========================
- Patient to follow up with Dr. ___ for the results of 
SED rate and d-dimer. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clonazepam 1 mg PO QAM 
2. Clonazepam 2 mg PO QHS 
3. Fluoxetine 20 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Acetaminophen 1000 mg PO Q8H:PRN Pain 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN Pain 
2. Clonazepam 1 mg PO QAM 
3. Aspirin 325 mg PO DAILY 
RX *aspirin [Enteric Coated Aspirin] 325 mg 1 (One) tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0
4. Atorvastatin 40 mg PO DAILY 
RX *atorvastatin 40 mg 1 (One) tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
5. Clonazepam 2 mg PO QHS 
6. Fluoxetine 20 mg PO DAILY 
7. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cerebral embolism with infarctions
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you here at ___. You were 
admitted for your noted weakness. CT and MRI of your brain 
confirmed that you had a stroke. The Transesophagela ECHO 
detected a hole in between the uppper chambers of your heart 
(patent foramen ovale) and you received a lower extremity 
ulrasound which was negative for clots. You will be sent home 
with physical therarpy services to assist you in your recovery. 
Please follow up 
with Dr. ___ (see below) for further care and for the 
results of your SED rate and d-dimer. 
 
Followup Instructions:
___